US04363917
Example 22: 5 Nitro-3-phenylthiophthalic anhydride
5 g (21 mmols) of 3,5-dinitrophthalic anhydride are dissolved in 17 ml of tetrahydrofuran; 2.78 g (25.2 mmols) of thiophenol and 4.3 g (42 mmols) of acetic anhydride are then added. This solution is added dropwise, with vigorous stirring, to a mixture of 22.4 g of 30% sodium hydroxide solution, 47.8 mg (0.21 mmol) of benzyltriethylammonium chloride and 100 ml of methylene chloride.

reactant | 3,5-dinitrophthalic anhydride | 21 mmols, 5 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC(=C1)[N+](=O)[O-] | C8H2N2O7
reactant | thiophenol | 25.2 mmols, 2.78 g | C1(=CC=CC=C1)S | C6H6S
reactant | acetic anhydride | 42 mmols, 4.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 22.4 g | [OH-].[Na+]
reactant | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
catalyst | benzyltriethylammonium chloride | 0.21 mmol, 47.8 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Nitro-3-phenylthiophthalic anhydride | [N+](=O)([O-])C=1C(=C2C(C(=S)OC2=O)=CC1)C1=CC=CC=C1 | C14H7NO4S
